US06015818
To a solution of 8-[3-[N-[(E)-3-(6-carboxypyridin-3-yl)acryloylglycyl]-N-methylamino]-2,6-dichlorobenzyloxy]-2-methyl-4-(2-pyridylmethoxy)quinoline (25 mg) and methylamine hydrochloride (3 mg) in N,N-dimethylformamide (2 ml) were added 1-ethyl-3-(3-dimethylaminopropyl)carbodiimide hydrochloride (7 mg) and 1-hydroxybenzotriazole (7 mg) at ambient temperature, and the mixture was allowed to stand for 1 day at ambient temperature. The reaction mixture was poured into water and extracted with chloroform. The organic layer was washed with water and aqueous sodium hydrogen carbonate solution, dried over magnesium sulfate and evaporated in vacuo. The residue was purified by preparative thin layer chromatography (chloroform:methanol=10:1, V/V) to give 8-[2,6-dichloro-3-[N-methyl-N-[(E)-3-[6-(methylcarbamoyl)pyridin-3-yl]acryloylglycyl]amino]-benzyloxy]-2-methyl-4-(2-pyridylmethoxy)quinoline (5 mg) as an oil.

reactant | 8-[3-[N-[(E)-3-(6-carboxypyridin-3-yl)acryloylglycyl]-N-methylamino]-2,6-dichlorobenzyloxy]-2-methyl-4-(2-pyridylmethoxy)quinoline | 25 mg | C(=O)(O)C1=CC=C(C=N1)/C=C/C(=O)NCC(=O)N(C)C=1C(=C(COC=2C=CC=C3C(=CC(=NC23)C)OCC2=NC=CC=C2)C(=CC1)Cl)Cl | C35H29Cl2N5O6
reactant | methylamine hydrochloride | 3 mg | Cl.CN
reactant | 1-ethyl-3-(3-dimethylaminopropyl)carbodiimide hydrochloride | 7 mg | Cl.C(C)N=C=NCCCN(C)C
reactant | 1-hydroxybenzotriazole | 7 mg | ON1N=NC2=C1C=CC=C2 | C6H5N3O
solvent | N,N-dimethylformamide | 2 ml | CN(C=O)C | C3H7NO
solvent | water | O | H2O
product | 8-[2,6-dichloro-3-[N-methyl-N-[(E)-3-[6-(methylcarbamoyl)pyridin-3-yl]acryloylglycyl]amino]-benzyloxy]-2-methyl-4-(2-pyridylmethoxy)quinoline | 5 mg | ClC1=C(COC=2C=CC=C3C(=CC(=NC23)C)OCC2=NC=CC=C2)C(=CC=C1N(C(CNC(\C=C\C=1C=NC(=CC1)C(NC)=O)=O)=O)C)Cl | C36H32Cl2N6O5
